US08957062B2
Step C: 1-(cyclohexylacetyl)-4-((1R,2S)-2-{2-[4-(1H-tetrazol-1-yl)phenoxy]ethyl}cyclopropyl) piperidine
To a solution of 23 mg (0.071 mmol) of 4-((1R,2S)-2-{2-[4-(1H-tetrazol-1-yl)phenoxy]ethyl}cyclopropyl)piperidine in 0.6 ml anhydrous N,N-dimethylformamide at ambient temperature was added 0.020 ml (0.14 mmol) cyclohexylacetic acid, followed by 27 mg (0.14 mmol) EDC, 9.6 mg (0.071 mmol) HOBt, and 0.062 ml (0.35 mmol) diisopropylethylamine. The solution was stirred overnight at ambient temperature. The crude in N,N-dimethylformamide was purified directly by reverse phase HPLC (TMC Pro-Pac C18; 30-100% acetonitrile/0.1% formic acid in water gradient). The pure fractions were lyophilized to yield the title compound as white solid.

reactant | 4-((1R,2S)-2-{2-[4-(1H-tetrazol-1-yl)phenoxy]ethyl}cyclopropyl)piperidine | 0.071 mmol, 23 mg | N1(N=NN=C1)C1=CC=C(OCC[C@H]2[C@H](C2)C2CCNCC2)C=C1 | C17H23N5O
reactant | cyclohexylacetic acid | 0.14 mmol, 0.020 ml | C1(CCCCC1)CC(=O)O | C8H14O2
reactant | EDC | 0.14 mmol, 27 mg
reactant | HOBt | 0.071 mmol, 9.6 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropylethylamine | 0.35 mmol, 0.062 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 0.6 ml | CN(C=O)C | C3H7NO
product | 1-(cyclohexylacetyl)-4-((1R,2S)-2-{2-[4-(1H-tetrazol-1-yl)phenoxy]ethyl}cyclopropyl) piperidine | C1(CCCCC1)CC(=O)N1CCC(CC1)[C@@H]1[C@@H](C1)CCOC1=CC=C(C=C1)N1N=NN=C1 | C25H35N5O2
